US07615643B2
Methyl 3-{[(1R)-1-(2-chloro-3-hydroxyphenyl)ethyl]oxy}-5-[5-(6-methyl-3-pyridinyl)-1H-benzimidazol-1-yl]-2-thiophenecarboxylate
To a solution of methyl 5-(5-bromo-1H-benzimidazol-1-yl)-3-{[(1R)-1-(2-chloro-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}phenyl)ethyl]oxy}-2-thiophenecarboxylate (300 mg, 0.48 mmol) in 4.5 mL of DMA was added 2-picoline-5-boronic acid hydrate (79 mg, 0.58 mmol), 1M Na2CO3 (1.44 ml, 1.44 mmol) and Cl2Pd(dppf) (41 mg, 0.05 mmol), and the reaction was heated to 80° C. The dark reaction was concentrated onto silica gel and purified by flash column chromatography to give the title compound, which was triturated into ether (147 mg, 59%). 1H NMR (400 MHz, d6-DMSO) δ 10.26 (s, 1H), 8.80 (s, 1H), 8.70 (s, 1H), 8.08 (s, 1H), 8.01 (dd, J=8.0 and 2.4 Hz, 1H), 7.68 (m, 2H), 7.34-7.32 (m, 2H), 7.20-7.11 (m, 2H), 6.91 (d, J=8.0 Hz, 1H), 5.93 (m, 1H), 3.70 (s, 3H), 2.49 (s, 3H), 1.60 (d, J=6.0 Hz, 3H).

reactant | methyl 5-(5-bromo-1H-benzimidazol-1-yl)-3-{[(1R)-1-(2-chloro-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}phenyl)ethyl]oxy}-2-thiophenecarboxylate | 0.48 mmol, 300 mg | BrC1=CC2=C(N(C=N2)C2=CC(=C(S2)C(=O)OC)O[C@H](C)C2=C(C(=CC=C2)O[Si](C)(C)C(C)(C)C)Cl)C=C1 | C27H30BrClN2O4SSi
reactant | 2-picoline-5-boronic acid hydrate | 0.58 mmol, 79 mg | O.N1=C(C=CC(=C1)B(O)O)C
reactant | Na2CO3 | 1.44 mmol, 1M, 1.44 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMA | 4.5 mL | CC(=O)N(C)C | C4H9NO
product | Methyl 3-{[(1R)-1-(2-chloro-3-hydroxyphenyl)ethyl]oxy}-5-[5-(6-methyl-3-pyridinyl)-1H-benzimidazol-1-yl]-2-thiophenecarboxylate | ClC1=C(C=CC=C1O)[C@@H](C)OC1=C(SC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NC(=CC2)C)C(=O)OC | C27H22ClN3O4S
